US04081455
6-(Di-[2-methylphenyl]phenylmethylamino)-2,2-Dimethyl-3-Cyanopenam
Triethylamine (444 mg., 4.4 mmole) is added to a suspension of 6-amino-2,2-dimethyl-3-cyanopenam (468 mg., 2 mmole) in methylene chloride (20 ml.) and the resulting mixture cooled to -10° C. A solution of α,α-di(2-methylphenyl) benzyl chloride (614 mg., 2 mmole) in methylene chloride (12 ml.) is added over a ten minute period and the resulting yellow solution stirred for 1 hour at -10° C. The cooling bath is removed and the mixture stirred and allowed to warm to room temperature. It is stirred for two hours at room temperature and is then concentrated under reduced pressure to a brown sludge. The sludge is chromatographed on a silica gel column (70-23- mesh., 380 × 20 mm. column) using chloroform as eluent. Fractions (15 ml. each) are collected. Fractions 13-19 are combined and concentrated in vacuo to dryness to give 155 mg. of product as a foam.

reactant | Triethylamine | 4.4 mmole, 444 mg | C(C)N(CC)CC | C6H15N
reactant | 6-amino-2,2-dimethyl-3-cyanopenam | 2 mmole, 468 mg | NC1[C@@H]2N(C(C(S2)(C)C)C#N)C1=O | C8H11N3OS
reactant | α,α-di(2-methylphenyl) benzyl chloride | 2 mmole, 614 mg | CC1=C(C=CC=C1)C(C1=CC=CC=C1)(C1=C(C=CC=C1)C)Cl | C21H19Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 6-(Di-[2-methylphenyl]phenylmethylamino)-2,2-Dimethyl-3-Cyanopenam | CC1=C(C=CC=C1)C(C1=CC=CC=C1)(NC1[C@@H]2N(C(C(S2)(C)C)C#N)C1=O)C1=C(C=CC=C1)C | C29H29N3OS
